US05734081
2,2'-Dithiobis[N-[4-[(2-pyrimidinylamino)sulfonyl]phenyl]-benzamide]
This compound was prepared according to the general methods described in Example 1 using 2,2'-dithiobisbenzoyl chloride (3.0 g, 8.7 mmol) in 30 mL dichloromethane and 4-amino-N-(2-pyrimidinyl) benzenesulfonamide (5.3 g, 21.7 mmol) in 100 mL pyridine. The crude product was recrystallized from a mixture of dimethylformamide, ethanol, and water to yield 3.9 g of the title compound, mp 280° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 8.7 mmol, 3.0 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-amino-N-(2-pyrimidinyl) benzenesulfonamide | 21.7 mmol, 5.3 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=N1 | C10H10N4O2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-[(2-pyrimidinylamino)sulfonyl]phenyl]-benzamide] | 3.9 g | N1=C(N=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)NC2=NC=CC=N2)C=CC=C1)=O | C34H26N8O6S4
